US07981903B2
To a solution of 3-[3-(methyloxy)-4-nitrophenyl]-1-(2-propen-1-yl)pyridinium bromide (28.2 g, 80.0 mmol) in MeOH (200 mL) was added NaBH3CN (21.1 g, 320.0 mmol). The reaction was heated to 65° C. and stirred for 72 h. The cooled solution was concentrated to remove MeOH, and to the residue was added saturated aq. NaHCO3 (100 mL). After extraction with Ethyl acetate (2×100 mL), concentration, and drying (Na2SO4), purification by silica chromatography afforded 5-[3-(methyloxy)-4-nitrophenyl]-1-(2-propen-1-yl)-1,2,3,6-tetrahydropyridine (11.0 g, 50%). ESIMS (M+H)+=275.

reactant | 3-[3-(methyloxy)-4-nitrophenyl]-1-(2-propen-1-yl)pyridinium bromide | 80.0 mmol, 28.2 g | [Br-].COC=1C=C(C=CC1[N+](=O)[O-])C=1C=[N+](C=CC1)CC=C
reactant | NaBH3CN | 320.0 mmol, 21.1 g | [BH3-]C#N.[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | 5-[3-(methyloxy)-4-nitrophenyl]-1-(2-propen-1-yl)-1,2,3,6-tetrahydropyridine | 11.0 g, 50% | COC=1C=C(C=CC1[N+](=O)[O-])C1=CCCN(C1)CC=C | C15H18N2O3
